US04206137
(a) trans-2-[1-Oxo-2-propenyl]cyclohexane carboxylic acid
A mixture of aluminum chloride (66.7 g., 0.5 mole), trans-1,2-cyclohexanedicarboxylic anhydride (38.5 g., 0.25 mole) and 1,2-dichloroethane (1 liter) in a 2 liter 3-neck flask equipped with a gas inlet tube, a mechanical stirrer and a drying tube is stirred rapidly and ethylene is bubbled in for 4.5 hours. This mixture is poured into 900 ml. of 5% hydrochloric acid and ice. The layers are separated and the organic layer is washed with water and taken to dryness in vacuo. The aqueous layer is extracted with ether (300 ml.). This extract is washed with water and combined with material from the original organic layer and taken to dryness. The residue is heated with 300 ml. of 10% potassium carbonate on a steam bath for fifteen minutes. After cooling, the mixture is extracted three times with ether. The aqueous layer is acidified and the product trans-2-[1-oxo-2-propenyl]cyclohexanecarboxylic acid (31.6 g.) is extracted into ether, dried and concentrated in vacuo. The crude crystalline trans-2-(1-oxo-2-propenyl)cyclohexanecarboxylic acid is recrystallized from ether-hexane, m.p. 101°-102°.

reactant | aluminum chloride | 0.5 mole, 66.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trans-1,2-cyclohexanedicarboxylic anhydride | 0.25 mole, 38.5 g | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | 1,2-dichloroethane | 1 liter | ClCCCl | C2H4Cl2
product | trans-2-[1-Oxo-2-propenyl]cyclohexane carboxylic acid | O=C(C=C)[C@H]1[C@@H](CCCC1)C(=O)O | C10H14O3
